** sch_path: /home/designer/shared/frac-n-pll-vco-smacd_2026/schematic/lc-vco/capacitors/varicap_tb.sch
**.subckt varicap_tb
R1 in GND 1Meg m=1
V1 in GND dc 0 ac 1 portnum 1 z0 50
R2 out GND 1Meg m=1
V2 out GND dc 0 ac 0 portnum 2 z0 50
XC1 in net1 out GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
Vtune net1 GND dc 0
XC2 in net1 out GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
**** begin user architecture code

.lib cornerMOShv.lib mos_tt



.control

* 1. Define sweep parameters
let v_start = 0
let v_stop = 1.2
let v_step = 0.1
let num_points = (v_stop - v_start + v_step) / v_step

let v_current = v_start

* 2. Create arrays for results
let C_var = vector(num_points)
let V_ctrl = vector(num_points)

let i = 0

* 3. Loop through tuning voltages
while v_current <= v_stop
    * Alter the DC voltage of the Vtune source
    alter Vtune dc = v_current

    * Run S-parameter analysis: Linear sweep, 1 point, 2.4 GHz
    sp lin 1 2.4G 2.4G

    * Calculate Capacitance
    let C = 1/(2*PI*frequency*imag(1/Y_2_1))

    * Store the values in the arrays
    let C_var[i] = real(C)
    let V_ctrl[i] = v_current

    * Increment loop variables
    let v_current = v_current + v_step
    let i = i + 1
end

* 4. Plot the results
plot C_var vs V_ctrl xlabel 'Tuning Voltage (V)' ylabel 'Capacitance (F)' title 'Differential Capacitance vs. Tuning Voltage'

.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
